US06372759B1
E) N-(1-Boc-6-indazolyl)-2-[(4-t-butylbenzoyl)amino]-5-[(methylsulfonyl)amino]benzamide
To a stirring solution of 5-amino-N-(1-Boc-6-indazolyl)-2-[(4-t-butylbenzoyl)amino]benzamide (144 mg, 0.27 mmol) and pyridine (0.066 mL, 0.82 mmol) in dichloromethane (5 mL) and THF (5 mL) was added methanesulfonyl chloride (0.023 mL, 0.30 mL). After stirring for 24 h, the solvent was removed in vacuo and the residue was dissolved in ethyl acetate and washed with 1 M citric acid, water, satd aq NaHCO3, and brine. The organic phase was then dried with MgSO4, filtered and concentrated in vacuo and the resulting solid was recrystallized from dichloromethane/hexanes to give 137 mg (83%) of tan solid.

reactant | 5-amino-N-(1-Boc-6-indazolyl)-2-[(4-t-butylbenzoyl)amino]benzamide | 0.27 mmol, 144 mg | NC=1C=CC(=C(C(=O)NC2=CC=C3C=NN(C3=C2)C(=O)OC(C)(C)C)C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C30H33N5O4
reactant | pyridine | 0.82 mmol, 0.066 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.023 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(1-Boc-6-indazolyl)-2-[(4-t-butylbenzoyl)amino]-5-[(methylsulfonyl)amino]benzamide | 137 mg, 83% | C(=O)(OC(C)(C)C)N1N=CC2=CC=C(C=C12)NC(C1=C(C=CC(=C1)NS(=O)(=O)C)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C31H35N5O6S
